* Z:\mnt\design.r\spice\examples\1693-2.asc
V1 N001 0 5
V2 N002 0 PULSE(0 5 0 1n 1n 5u 10u)
XU1 N002 0 N002 0 N004 N001 N003 N001 LTC1693-2
.tran 100u
.lib LTC1693-2.sub
.backanno
.end
