* Z:\mnt\design.r\spice\examples\1693-5.asc
L1 N004 N005 22µ
D1 0 N004 1N5819
C1 N005 0 47µ
R1 N005 0 10
V1 N001 0 5
M§Q1 N004 N003 N001 N001 Si4401DY
V2 N002 0 pulse(0 3.3 0 10n 10n 1u 2u)
XU1 N002 MP_01 0 0 MP_02 MP_03 N003 N001 LTC1693-5
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 2m startup
.lib LTC1693-5.sub
.backanno
.end
