* Z:\mnt\design.r\spice\examples\1727-5.asc
XU1 N001 N004 N006 0 N008 N007 N005 N002 LTC1727-5
V1 N006 0 PWL(0 1.05 7 1.05 8 .95 9 1.05)
V2 N004 0 PWL(0 5 4 5 5 4.5 6 5)
V3 N001 0 PWL(0 3.3 1 3.3 2 3 3 3.3)
V4 N003 0 5
R1 N003 N002 10K
R2 N003 N005 10K
R3 N003 N007 10K
R4 N003 N008 10K
.tran 10
.lib LTC1727-5.sub
.backanno
.end
