* Z:\mnt\design.r\spice\examples\1728-5.asc
XU1 N002 0 N004 N005 N003 LTC1728-5
R1 N002 N001 10K
V1 N004 0 PWL(0 1.05 7 1.05 8 0.95 9 1.05)
V2 N005 0 PWL(0 5 4 5 5 4.5 6 5)
V3 N003 0 PWL(0 3.3 1 3.3 2 3.0 3 3.3)
V4 N001 0 5
.tran 10
.lib LTC1728-5.sub
.backanno
.end
