* Z:\mnt\design.r\spice\examples\1751-5.asc
C1 N003 N004 1µ
R1 OUT N001 100K
C2 N002 0 .001µ
C3 OUT 0 10µ
V1 IN 0 3
Rload OUT 0 50
XU1 N001 OUT IN 0 N004 N003 IN N002 LTC1751-5
.tran 1m startup
.lib LTC1751-5.sub
.backanno
.end
