* Z:\mnt\design.r\spice\examples\1754-5.asc
XU1 OUT 0 IN N002 IN N001 LTC1754-5
V1 IN 0 3.3
C1 N001 N002 1µ
C2 OUT 0 10µ
Rload OUT 0 100
.tran 1m startup
.lib LTC1754-5.sub
.backanno
.end
