* Z:\mnt\design.r\spice\examples\1789-1.asc
V1 +v 0 5
V2 -V 0 -5
R1 N001 N002 {R}
V3 IN 0 AC 1
XU1 N001 0 IN -V 0 OUT +v N002 LT1789-1
.ac dec 100 100 1Meg
.step PARAM R list 1e308 22.22K 2.0202K
.lib LTC3.lib
.backanno
.end
