* Z:\mnt\design.r\spice\examples\1789-10.asc
V1 +V 0 5
V2 -V 0 -5
R1 N001 N002 {R}
XU1 N001 0 IN -V 0 OUT +V N002 LT1789-10
V3 IN 0 AC 1
.ac dec 100 100 1Meg
.step PARAM R list 1e308 22.22K 2.0202K
.lib LTC3.lib
.backanno
.end
