* Z:\mnt\design.r\spice\examples\1871-7.asc
M§Q1 N002 N005 0 0 IRF7811
R1 N006 0 80.6K
R2 N007 0 4K
R3 OUT N007 36.8K
L1 IN N002 1µ
D1 N002 OUT MBR735
C1 OUT 0 150µ Rser=.05 x2
R4 N004 N003 22K
C2 N003 0 6800p
C3 N004 0 50p
V1 IN 0 8
C4 N001 0 4.7µ
XU1 IN N004 N007 N006 0 0 N005 N001 IN N002 LTC1871-7
Rload OUT 0 10
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 750u startup
.lib LTC1871-7.sub
.backanno
.end
