* Z:\mnt\design.r\spice\examples\1928-5.asc
XU1 IN 0 OUT N001 N002 N003 LTC1928-5
V1 IN 0 3
C1 N002 N003 .47µ
C2 OUT 0 4.7µ
Rload OUT 0 300
C3 0 N001 4.7µ
.tran 1m startup
.lib LTC1928-5.sub
.backanno
.end
