* Z:\mnt\design.r\spice\examples\1944-1.asc
L1 IN N003 22µ Rpar=10K
L2 IN N002 22µ Rpar=2K
R1 OUT1 N004 2Meg
R2 N004 0 178K
D1 N002 OUT1 1N5819
R3 OUT2 N005 1Meg
R4 N005 0 324K
D2 N003 OUT2 MBRS360
C1 OUT2 0 4.7µ
C2 OUT1 0 1µ
V1 IN 0 3.5
XU1 N004 IN 0 IN N005 N003 0 IN 0 N002 LT1944-1
C3 OUT3 0 1µ
D3 OUT3 N001 1N5819
D4 N001 OUT2 1N5819
C4 N001 N002 .1µ
Rload2 OUT2 0 125
Rload1 OUT1 0 6K
Rload3 OUT3 0 10K
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 4m startup
.lib LT1944-1.sub
.backanno
.end
