* Z:\mnt\design.r\spice\examples\1949-1.asc
R1 N006 N007 68K
R2 OUT N003 1Meg
R3 N003 0 140K
C1 N007 0 330p
C2 OUT 0 10µ
D1 N001 OUT MBRS130L
L1 IN N001 10µ
V1 IN 0 3.3
R4 IN N002 1Meg
Rload OUT 0 57.5
XU1 N006 N003 N005 0 N001 IN N004 N002 LT1949-1
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 1m startup
.lib LT1949-1.sub
.backanno
.end
