* Z:\mnt\design.r\spice\examples\1983-3.asc
XU1 IN OUT N001 N002 0 IN LTC1983-3
C1 N001 N002 1µ
C2 OUT 0 10µ
V1 IN 0 5
Rload OUT 0 50
.tran 2m startup
.lib LTC1983-3.sub
.backanno
.end
