* Z:\mnt\design.r\spice\examples\1992-1.asc
V1 +V 0 2.7
V2 -V 0 0
V3 N001 N005 SINE(0 0.5 10K)
C1 N002 0 10p
C2 N004 0 10p
XU1 N001 N003 +V N002 N004 -V N003 N005 LTC1992-1
.tran 1m
.lib LTC4.LIB
.backanno
.end
