* Z:\mnt\design.r\spice\examples\1993-2.asc
V1 N001 0 5
V4 N002 N007 sine(0 10m 10K)
XU1 N001 N005 N001 0 N003 N004 N006 N008 0 N001 0 0 N002 N002 N007 N007 LT1993-2
V2 N005 0 2.5
.tran 1m
.lib LTC3.LIB
.backanno
.end
