* Z:\mnt\design.r\spice\examples\1993-4.asc
V3 N002 0 SINE(0 1m 1Meg)
V1 N001 0 5
R5 N003 N008 100
C1 N003 N002 .1µ
C2 N008 0 .1µ
XU1 N001 N006 N001 0 N004 N005 N007 N009 0 N001 0 0 N003 N003 N008 N008 LT1993-4
V2 N006 0 2.5
.tran 10u
.lib LTC3.LIB
.backanno
.end
