* Z:\mnt\design.r\spice\examples\1997-3.asc
XU1 N003 MP_01 NC_02 MP_03 NC_04 0 0 V- Out NC_05 V+ NC_06 MP_07 NC_08 MP_09 N001 LT1997-3
V1 V+ 0 15
V2 V- 0 -15
R1 N002 N001 1
R2 N003 N002 1
RL N001 0 10
VS N002 0 0
.dc VS 0 26.5 10m
* Gain = 1 Difference Amplifier
* V(Out) = 1mV/mA in RL
.lib LTC6.lib
.backanno
.end
