* Z:\mnt\design.r\spice\examples\1999-50.asc
C1 0 N005 .1µ
V1 N002 N004 sine(0 25m 5K)
V2 N004 0 sine(5 1 1K)
V3 N001 0 5
XU1 N001 N002 N004 MP_01 0 N005 OUT N003 LT1999-x Gain=50
.tran 3m
.lib LTC6.lib
.backanno
.end
