* Z:\mnt\design.r\spice\examples\2900-2.asc
R1 N005 N008 121K
R2 N011 N008 464K
C1 N009 0 .001µ
V1 N010 0 PWL(0 5 14 5 14.001 0 15.001 0 15.002 5)
V2 N011 0 PWL(1 -5 11 -5 12 -4 13 -4 14 -5)
R3 N003 N006 2150K
R4 N006 0 100K
V3 N003 0 PWL(1 12 8 12 9 10 10 10 11 12)
R5 N002 0 1Meg
V4 N004 0 PWL(1 3.3 5 3.3 6 3 7 3 8 3.3)
V5 N001 0 PWL(1 5 2 5 3 4 4 4 5 5)
R6 N005 N007 93.1K
R7 N007 0 9.53K
XU1 N006 N001 N009 N002 N010 0 N007 N005 N008 N004 LTC2900-2
.tran 16
.lib LTC2900-2.sub
.backanno
.end
