* Z:\mnt\design.r\spice\examples\2902-1.asc
XU1 Comp3 Comp1 N003 N001 N006 _RESET 0 N001 0 0 N005 N005 N004 N002 Comp4 Comp2 LTC2902-1
V1 N001 0 PWL(1 5.0 2 4.1 3 4.1 4 5.0)
V2 N002 0 PWL(5 3.0 6 2.5 7 2.5 8 3.0)
V3 N003 0 PWL(9 1.8 10 1.5 11 1.5 12 1.8)
V4 N004 0 PWL(13 0.7 14 0.4 15 0.4 16 0.7)
C1 N006 0 100p
.tran 16 startup
.lib LTC2902-1.sub
.backanno
.end
