* Z:\mnt\design.r\spice\examples\2902-2.asc
V1 N001 0 PWL(1 5.0 2 4.1 3 4.1 4 5.0)
V2 N002 0 PWL(5 3.3 6 2.6 7 2.6 8 3.3)
V3 N003 0 PWL(9 0.6 10 0.4 11 0.4 12 0.6)
V4 N004 0 PWL(13 -0.15 14 0.15 15 0.15 16 -0.15)
C1 N007 0 4.34p
XU1 Comp3 Comp1 N003 N001 N007 _RESET N001 N001 N001 0 N006 N005 N004 N002 Comp4 Comp2 LTC2902-2
R1 N006 0 9.53K
R2 N005 N006 93.1K
.tran 16 startup
.lib LTC2902-2.sub
.backanno
.end
