* Z:\mnt\design.r\spice\examples\2909-33.asc
V1 N004 0 PWL (0,0 10m,12)
V2 N001 0 PULSE(2.5 5 0 1000m 1000m 3000m 5000m)
R1 N007 N001 57.6K
R2 N007 N005 1.1K
R3 N005 0 10K
I1 N003 0 PWL(0 0 1 0 1.001 1m 2 1m 2.001 -1m 3 -1m 4 -5m 4.001 -5m 5 5m)
C1 0 N006 22n
C2 0 N002 1000p
R4 N001 N002 10K
V3 N008 0 PWL(0 0 5010m 0 5011m 0.9 10010m 0.9 10011m 5)
XU1 0 N003 N005 N007 N008 N006 N004 N002 LTC2909-33
.tran 15
.lib LTC2909-33.sub
.backanno
.end
