* Z:\mnt\design.r\spice\examples\2914-1.asc
R1 N002 N004 44.2K
R2 N004 N005 1K
R3 N005 0 4.53K
R4 N001 N007 27.4K
R5 N007 N008 1K
R6 N008 0 4.53K
R7 N009 N011 4.64K
R8 N011 N012 845
R9 N012 N018 54.9K
R10 N009 N014 4.64K
R11 N014 N015 768
R12 N015 N017 37.4K
R13 N003 N006 10K
R14 N003 N010 10K
C1 N016 0 .01µ
V1 N002 0 PWL(0 0 5 5 6 5 7 6 8 6 10 4 11 4 12 5)
V2 N001 0 PWL(0 0 3.3 3.3 13 3.3 14 4.3 15 4.3 17 2.3 18 2.3 19 3.3)
V3 N018 0 PWL(0 0 5 -5 20 -5 21 -6 22 -6 24 -4 25 -4 26 -5)
V4 N017 0 PWL(0 0 3.3 -3.3 27 -3.3 28 -4.3 29 -4.3 31 -2.3 32 -2.3 33 -3.3)
V5 N003 0 PWL(0 0 3.3 3.3 34 3.3 37.3 0 38.3 0 41.6 3.3)
V6 N013 0 PWL(0 0 3.3 3.3 19.999 3.3 20 0 24.999 0 25 3.3)
XU1 N004 N005 N007 N008 N011 N012 N014 N015 0 N009 N006 N010 N013 0 N016 N003 LTC2914-1
.tran 45
.lib LTC2914-1.sub
.backanno
.end
