* Z:\mnt\design.r\spice\examples\2914-2.asc
R12 N002 N004 44.2K
R10 N004 N005 1K
R11 N005 0 4.53K
R9 N001 N007 27.4K
R7 N007 N008 1K
R8 N008 0 4.53K
R4 N009 N011 4.64K
R5 N011 N012 845
R6 N012 N018 54.9K
R1 N009 N014 4.64K
R2 N014 N015 768
R3 N015 N017 37.4K
R13 N003 N006 10K
R14 N003 N010 10K
C1 N016 0 .01µ
V1 N002 0 PWL(0 0 5 5 6 5 7 6 8 6 10 4 11 4 12 5)
V2 N001 0 PWL(0 0 3.3 3.3 13 3.3 14 4.3 15 4.3 17 2.3 18 2.3 19 3.3)
V3 N018 0 PWL(0 0 5 -5 20 -5 21 -6 22 -6 24 -4 25 -4 26 -5)
V4 N017 0 PWL(0 0 3.3 -3.3 27 -3.3 28 -4.3 29 -4.3 31 -2.3 32 -2.3 33 -3.3)
V5 N003 0 PWL(0 0 3.3 3.3 34 3.3 37.3 0 38.3 0 41.6 3.3)
V6 N013 0 PULSE(0 3.3 28.5 1p 1p .1)
XU1 N004 N005 N007 N008 N011 N012 N014 N015 0 N009 N006 N010 N013 0 N016 N003 LTC2914-2
.tran 45
.lib LTC2914-2.sub
.backanno
.end
