* Z:\mnt\design.r\spice\examples\2919-33.asc
V1 N004 0 PWL(0 0 10m 12)
R1 N005 0 10K
R2 N003 N001 57.6K
R3 N005 N003 1.1K
C1 0 N007 22n
R4 N001 N006 10K
V2 N001 0 PULSE(2.5 5 0 1000m 1000m 3000m 5000m)
C2 0 N010 1000p
I1 N009 0 PWL(0 0 1 0 1.001 1m 2 1m 2.001 -1m 3 -1m 4 -5m 4.001 -5m 5 5m)
R5 N001 N008 10K
R6 N001 N010 10K
V3 N002 0 PWL(0 0 5010m 0 5011m 0.9 10010m 0.9 10011m 5)
XU1 N002 N004 N006 N008 N010 0 N009 N007 N005 N003 LTC2919-33
.tran 15
.lib LTC2919-33.sub
.backanno
.end
