* Z:\mnt\design.r\spice\examples\2920-2.asc
V1 IN 0 5
C1 OUT1 0 2.2µ
Rload1 OUT1 0 165
R1 OUT1 N001 2.8Meg
R2 N001 0 619K
XU1 IN OUT1 N001 0 IN LT3008
R3 N002 IN 21K
R4 N004 0 60.4K
C3 OUT2 0 2.2µ
Rload2 OUT2 0 165
R5 OUT2 N003 1.18Meg
R6 N003 0 590K
XU3 IN OUT2 N003 0 IN LT3008
XU2 N004 0 IN N002 N001 0 N003 IN LTC2920-2
.tran 1m startup
.lib LT3009.lib
.lib LTC2920-2.sub
.backanno
.end
