* Z:\mnt\design.r\spice\examples\2956-1.asc
XU1 N007 N016 N017 N015 N001 0 N010 N003 N006 N009 N011 N008 LTC2956-1
C1 N007 0 1.5n
R1 N015 0 100K
R2 N016 N017 100K
R3 N017 0 9.76K
R4 N016 0 35.7K
V1 N001 0 PWL(0 0 10u 5)
V2 N013 0 PWL(0 0 1 0 +100n 1 +100m 1 +100n 0 4 0 +100n 1 5.5 1 +100n 0)
XU2 N005 N004 N002 MP_01 N001 MP_02 N003 0 LT3060
R5 N002 N004 279K
R6 N004 0 62K
C2 N005 0 10n
C3 N002 N004 10n
C4 N002 0 10µ
A1 N002 0 0 0 0 0 N012 0 SCHMITT Vt=3 Vh=3m Trise=100n Vhigh=3
A2 0 N012 0 0 N014 0 N011 0 XOR Trise=100n Vhigh=3
A3 0 N012 0 StopEarly 0 0 N014 0 AND Trise=5m Vhigh=3
V3 StopEarly 0 PWL(0 3 2.5 3 +100n 0)
S1 N010 0 N013 0 SPB
R7 N001 N006 10K
R8 N001 N008 10K
R9 N001 N009 10K
Rload N002 0 100
.tran 7
* µProcessor
* Logic representing µProcessor\nterminates EN early at times\nbefore 2.5 secs.
.model SPB SW(Ron=100 Roff=1G Vt=.5 Vh=-.3)
.lib LT3060.sub
.lib LTC2956-1.sub
.backanno
.end
