* Z:\mnt\design.r\spice\examples\2956-2.asc
C1 N005 0 10n
R1 N013 0 100K
R2 N014 N015 100K
R3 N015 0 9.76K
R4 N014 0 35.7K
V1 N001 0 PWL(0 0 10u 3.3)
V2 N012 0 PWL(0 0 1 0 +100n 1 +100m 1 +100n 0 4 0 +100n 1 5.5 1 +100n 0)
A1 N002 0 0 0 0 0 N010 0 SCHMITT Vt=3 Vh=3m Trise=10m Tfall=50n Vhigh=3
A2 0 N010 0 N011 0 0 N009 0 XOR Trise=100n Vhigh=3
A3 0 N010 0 StopEarly 0 0 N011 0 AND Trise=5m Tfall=50n Vhigh=3
V3 StopEarly 0 PWL(0 3 2.5 3 +100n 0)
S1 N008 0 N012 0 SPB
R5 N001 N004 10K
R6 N001 N006 10K
R7 N001 N007 10K
XU1 N005 N014 N015 N013 N001 0 N008 N003 N004 N007 N009 N006 LTC2956-2
M§Q1 N002 N003 N001 N001 AO6407
R8 N002 0 1K
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 7
.model SPB SW(Ron=100 Roff=1G Vt=.5 Vh=-.3)
* µProcessor
* Logic representing µProcessor\nterminates EN early at times\nbefore 2.5 secs.
.lib LTC2956-2.sub
.backanno
.end
