* Z:\mnt\design.r\spice\examples\2960-3.asc
R1 N001 N003 825K
R2 N003 0 80.6K
R3 OUT N004 6.04Meg
R4 N004 0 1Meg
Vbat N001 0 PWL(0 0 20 28 40 0)
XU1 N001 OUT OUT 0 N001 LT3008-3.3
XU2 OUT OUT _UV N002 0 N002 N004 N003 LTC2960-3
C2 OUT 0 22µ
* Automotive Supervisor (H-Grade)
* 12V
* 3.3V
.tran 40
.lib LT3009.lib
.lib LTC2960-3.sub
.backanno
.end
