* Z:\mnt\design.r\spice\examples\2960-4.asc
R1 N001 N002 118K
R2 N006 0 182K
C1 OUT 0 1µ
Vbat N001 0 PWL(0 0 10m 14 200 20 220 14 300 14 400 0)
R3 N001 N004 10K
R4 N005 N006 68K
R5 N002 N005 7.32Meg
XU1 N004 OUT _FAULT N003 0 N003 N005 N006 LTC2960-4
XU2 N001 OUT OUT 0 N001 LT3008-5
* Window Comparator for High Voltage Input
* 6V to 8.4V
* 5V
.tran 400
.lib LT3009.lib
.lib LTC2960-4.sub
.backanno
.end
