* Z:\mnt\design.r\spice\examples\3025-2.asc
Rload OUT 0 2.4
C1 OUT 0 1µ
V1 N001 0 PWL(0 0 1 5.5)
V2 IN 0 3.6
XU1 IN 0 N001 OUT OUT N001 LTC3025-2
.tran 1
.lib LTC3025.lib
.backanno
.end
