* Z:\mnt\design.r\spice\examples\3026-1.asc
V1 IN 0 1.5
R1 OUT N003 100K
R2 OUT N002 8.06K
R3 OUT 0 .8
R4 N002 0 4.02K
C2 OUT 0 10µ
XU1 IN MP_01 0 0 N001 IN N003 N002 OUT LTC3026-1
V2 N001 0 5
.tran .1 startup
.lib LTC3026.lib
.backanno
.end
