* Z:\mnt\design.r\spice\examples\3032-5.asc
C1 N002 0 10µ
V1 N005 0 pwl(0 0 1 -10)
V2 N001 0 pwl(0 0 1 10)
C2 N006 0 10µ
R5 N002 0 100
R6 N006 0 100
C3 N002 N003 .01µ
C4 N004 N006 .01µ
XU1 N002 MP_01 N003 0 MP_02 N005 N006 MP_03 MP_04 N001 N004 N001 MP_05 N001 LT3032-5
.tran 1
.lib LT3032.lib
.backanno
.end
