* Z:\mnt\design.r\spice\examples\3045-1.asc
R1 N008 OutSw 200K
C2 OutLDO 0 10µ Rser=3m
XU2 OutSw MP_01 OutSw N008 0 OutSw N009 0 OutLDO OutLDO N006 LT3045-1
R5 N007 0 40.2K
C3 N004 0 1n
V2 IN 0 20
C4 N001 0 1µ
L1 N003 OutSw 2.2µ Rser=3m
C5 N002 N003 .22µ
C6 OutSw 0 47µ V=6.3 Irms=0 Rser=0.002 Lser=0 mfg="TDK" pn="C4532X5ROJ47@M" type="X5R"
R7 N005 0 7.68K
XU1 N002 N003 N001 N007 NC_02 N005 N004 NC_03 IN IN 0 LT8608
R6 N006 N005 2.21K
R2 OutSw N006 140K
R3 OutLDO 0 10
V4 N009 0 PWL(0 0 500u 0 600u 3 700u 3 900u 4 900u 4 1m 4 1.2m 3) Rser=100
.tran 1.3m startup
* C3 reduced for fast\nstartup simulation
* Switcher output (OutSw) programmed to be 1 volt\ngreater than LT3045-1 output (OutLDO),
.lib LT3045-1.sub
.lib LT8608.sub
.backanno
.end
