* Z:\mnt\design.r\spice\examples\3060-3.asc
V1 IN 0 12
C1 N002 0 10n
C2 OUT N001 10n
C3 OUT 0 10µ
Rload OUT 0 30
XU1 N002 N001 OUT MP_01 IN MP_02 IN 0 LT3060-3
.tran .1 startup
.lib LT3060-3.sub
.backanno
.end
