* Z:\mnt\design.r\spice\examples\3114-1.asc
XU1 0 N002 OUT IN N006 N008 N007 0 N005 IN N005 N004 N003 IN N001 0 LTC3114-1
V1 IN 0 12
C1 N006 0 33n Rpar=20K
L1 N001 N002 6.8µ Rser=20m
C2 N001 N003 68n
C3 N002 N004 68n
C4 N005 0 4.7µ
R1 OUT N007 2Meg
R2 N007 0 499K
C5 N008 0 4700p Rser=27.4K
C6 OUT 0 30µ Rser=10m
Rload OUT 0 5
.tran 2m startup
.lib LTC3114-1.sub
.backanno
.end
