* Z:\mnt\design.r\spice\examples\3129-1.asc
L1 N001 N002 10µ Rser=20m
C1 N001 N003 22n
C2 N002 N004 22n
V1 IN 0 12
Rload OUT 0 50
C5 OUT 0 10µ Rser=1m
XU1 0 N003 N001 0 IN IN N005 N005 N005 N004 0 N002 N006 OUT N005 LTC3129-1
R1 OUT N006 100K
.tran 2m startup
.lib LTC3129-1.sub
.backanno
.end
