* Z:\mnt\design.r\spice\examples\3154-1.asc
V1 IN 0 5
L1 N001 N002 1µ Rser=20m
C6 OUT 0 100µ Rser=10m
Rload OUT 0 0.6
R3 N004 0 90.9k
R1 OUT N003 1Meg
XU1 0 N002 OUT IN IN N003 0 0 N004 IN 0 OUT N001 IN LT3154-1
.tran 2.5m startup
.lib LT3154-1.sub
.backanno
.end
