* Z:\mnt\design.r\spice\examples\3200-5.asc
C1 N002 N001 1µ
C2 OUT 0 1µ
Rload OUT 0 50
V1 IN 0 3
XU1 OUT 0 IN N001 IN N002 LTC3200-5
.tran 1m startup
.lib LTC3200-5.sub
.backanno
.end
