* Z:\mnt\design.r\spice\examples\3204-5.asc
C1 N001 N002 2.2µ
C2 OUT 0 2.2µ
Rload OUT 0 300
V1 IN 0 3.6
XU1 0 IN OUT N001 N002 IN LTC3204-5
.tran 1m startup
.lib LTC3204-5.sub
.backanno
.end
