* Z:\mnt\design.r\spice\examples\3221-5.asc
C1 N001 N002 1µ
V1 IN 0 3
C2 OUT 0 4.7µ
Rload OUT 0 83
XU1 N001 N002 IN 0 IN OUT LTC3221-5
.tran 1m startup
.lib LTC3221-5.sub
.backanno
.end
